US07951794B2
A solution of 4-phenyl-5-trifluoromethyl-thiophene-2-carboxylic acid ethyl ester (750 mg, 2.50 mmol) in ethanol (12 mL) and 2 N aq. LiOH (6 mL) is stirred at 65° C. for 2 h. The reaction mixture is cooled to rt, diluted with water (60 mL) and extracted with DCM (50 mL). The aq. phase is acidified by adding 2 N aq. HCl (7 mL) and extracted twice with DCM (2×50 mL). These organic extracts are combined, washed with sat. aq. NaHCO3, dried over Na2SO4, evaporated and dried under high vacuum to give 4-phenyl-5-trifluoromethyl-thiophene-2-carboxylic acid (670 mg) as a brown solid, LC-MS: tR=0.97 min, 1H NMR (D6-DMSO): δ 7.57-7.54 (m, 1H), 7.46-7.42 (m, 5H).

reactant | 4-phenyl-5-trifluoromethyl-thiophene-2-carboxylic acid ethyl ester | 2.50 mmol, 750 mg | C(C)OC(=O)C=1SC(=C(C1)C1=CC=CC=C1)C(F)(F)F | C14H11F3O2S
solvent | ethanol | 12 mL | C(C)O | C2H6O
solvent | LiOH | 2 N, 6 mL | [Li+].[OH-]
solvent | water | 60 mL | O | H2O
product | 4-phenyl-5-trifluoromethyl-thiophene-2-carboxylic acid | 670 mg | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C(=O)O | C12H7F3O2S
